US08008298B2
2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (2-hydroxy-propyl)-amide was prepared starting from 2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid and 1-amino-propan-2-ol following the general procedures described in these Examples but with DMF as solvent. MP 201.9-202.6° C., M+H 387.

reactant | 2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | COC=1C=C(C=C(C1OC)OC)C=1N=C2C(=NC1)NC=C2C(=O)O | C16H15N3O5
reactant | 1-amino-propan-2-ol | NCC(C)O | C3H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (2-hydroxy-propyl)-amide | OC(CNC(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)C | C19H22N4O5
